US05086065
t-Butyl 3-(2-hydroxy-5-nitrophenyl)-2E-acrylate
Sodium hydride (content: 62%, 3.3 g) was suspended in tetrahydrofuran (30 ml). The suspension was ice-cooled in an atmosphere of argon gas. A solution of t-butyl diethylphosphonoacetate (20.9 g) in tetrahydrofuran (20 ml) was room temperature. A solution of 2-hydroxy-5-nitrobenzaldehyde (6.6 g) in tetrahydrofuran (20 ml) was gradually added to the mixture often with ice-cooling. The mixture was stirred for 10 min. at room temperature. Acetic acid was gradually added to the mixture until pH of the mixture was down to 5.0. The reaction mixture was gel-filtered with using YMC gel. Moreover the gel was washed with ethyl acetate. A mixture of the filtrate and washings was evaporated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1→3:2) to give the title compound (10.0 g) having the following physical data.

reactant | Sodium hydride | 3.3 g | [H-].[Na+]
reactant | t-butyl diethylphosphonoacetate | 20.9 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | 2-hydroxy-5-nitrobenzaldehyde | 6.6 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | t-Butyl 3-(2-hydroxy-5-nitrophenyl)-2E-acrylate | 10.0 g | OC1=C(C=C(C=C1)[N+](=O)[O-])/C=C/C(=O)OC(C)(C)C | C13H15NO5
